US07846944B2
Step 1: Synthesis of 5-Bromo-1-(2,6-difluorophenyl)-7-methyl-1H-pyrazolo[3,4-b]pyridine-6(7H)-thione
A mixture of Lawesson's reagent (297 mg, 0.73 mmol) and 5-bromo-1-(2,6-difluorophenyl)-7-methyl-1H-pyrazolo[3,4-b]pyridin-6(7H)-one (125 mg, 0.68 mmol) in toluene (8 mL) was heated to 125° C. for 15 h. The solvent was removed under reduced pressure (rotary evaporator) and the crude residue was purified on the ISCO 40 g column (5-40% EtOAc in hexanes) affording the title compound (101.6 mg) as a bright yellow crystalline solid. MS (ESI, pos.ion) m/z: 355.9/357.9 (M+1).

reactant | Lawesson's reagent | 0.73 mmol, 297 mg | COC=1C=CC(=CC1)P2(=S)SP(=S)(S2)C=3C=CC(=CC3)OC | C14H14O2P2S4
reactant | 5-bromo-1-(2,6-difluorophenyl)-7-methyl-1H-pyrazolo[3,4-b]pyridin-6(7H)-one | 0.68 mmol, 125 mg | BrC1=CC2=C(N(C1=O)C)N(N=C2)C2=C(C=CC=C2F)F | C13H8BrF2N3O
solvent | toluene | 8 mL | C1(=CC=CC=C1)C | C7H8
product | 5-Bromo-1-(2,6-difluorophenyl)-7-methyl-1H-pyrazolo[3,4-b]pyridine-6(7H)-thione | 101.6 mg | BrC1=CC2=C(N(C1=S)C)N(N=C2)C2=C(C=CC=C2F)F | C13H8BrF2N3S
